* source ICA X
R_R1         N00103 N00110  1 TC=0,0 
R_R2         0 N00110  2 TC=0,0 
R_R3         N00110 N00163  3 TC=0,0 
R_R5         0 N00163  4 TC=0,0 
G_G1         N00163 N00110 N00110 0 3
V_V1         N00103 0 10
