* source CIRCUIT1
V_V1         N00193 0  
+PULSE 5V 0V 0 0 0 25us 50us
R_R1         N00193 N00200  2k TC=0,0 
R_R2         0 N00200  2k TC=0,0 
R_R3         N00224 N00200  {R3} TC=0,0 
L_L1         0 N00224  10mH  
.PARAM  r3=1000
