* source ICA
R_R2         0 N00804  2 TC=0,0 
R_R3         N00804 0  3 TC=0,0 
G_G1         0 N00804 N00804 0 3
R_R1         N00880 N00804  1 TC=0,0 
V_V1         N00880 0 10
R_R4         0 0  4 TC=0,0 
