* source LAB 3
V_V1         N00131 0 10Vdc
C_C1         N00806 0  2.2uF IC=0 TC=0,0 
L_L1         0 N00806  5mH IC=0 
R_R1         N00131 N00806  1k TC=0,0 
