* source LAB 4B
R_R1         N00215 N01332  10000 TC=0,0 
X_U1         0 N01332 N00294 N00287 N00247 uA741
V_V2         N00294 0 15Vdc
V_V3         0 N00287 15Vdc
R_R3         N00247 N01332  100k TC=0,0 
X_U2         0 N09683 N00294 N00287 N09733 uA741
R_R4         N00247 N09683  10k TC=0,0 
R_R5         N10149 N09683  100k TC=0,0 
R_R6         0 N09733  10000 TC=0,0 
L_L1         N10149 N09733  10uH  
V_V4         N00215 0  
+SIN 0V 0.147 100 0 0 0
