* source LAB 3C
V_V1         N00224 0  
+SIN 0V .240V 360hz 0 0 0
R_R1         N00224 N00231  7.88 TC=0,0 
L_L1         N00231 N00235  418u  
R_R2         0 N00235  2.989 TC=0,0 
C_C1         0 N00235  904u  TC=0,0 
L_L2         0 N00235  8.3m  
