* source LAB7_ACTIVE
V_V1         N00282 0 DC 0Vdc AC 1Vac 
C_C1         N00286 N00134  1uF  TC=0,0 
L_L1         N00286 N00134  25.33mH  
R_R1         0 N00134  318.309 TC=0,0 
R_R2         N00282 N00286  50 TC=0,0 
