* source LAB_4_2
V_V1         N00088 0 12Vdc
R_R1         N00130 N00088  3 TC=0,0 
R_R2         N00178 0  15 TC=0,0 
R_R3         N00130 N00178  40 TC=0,0 
R_R4         N00237 N00130  15 TC=0,0 
R_R5         N00178 N00237  40 TC=0,0 
R_R6         N00237 0  4 TC=0,0 
I_I1         N00237 0 DC -2Adc  
